US05223529
Working in a manner similar to that described in Example 28, but starting with ethyl 2-anilinoacetate (2.2 g), 2-[3-(3-methylphenyl)ureido]acetic acid (2.6 g) and thionyl chloride (1.50 g), and after recrystallization in isopropanol, ethyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate (2 g), m.p. 181° C., is obtained.

reactant | ethyl 2-anilinoacetate | 2.2 g | N(C1=CC=CC=C1)CC(=O)OCC | C10H13NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 2.6 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 1.50 g | S(=O)(Cl)Cl | Cl2OS
product | ethyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 2 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OCC)=O | C20H23N3O4
